Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Synvisc
 
Attending: ___.
 
Chief Complaint:
epigastric and chest pain
 
Major Surgical or Invasive Procedure:
___
Laparoscopic repair of giant paraesophageal hernia with Hill 
gastropexy

 
History of Present Illness:
Ms ___ is a ___ with Gastric marginal zone lymphoma who
was evaluated for a giant paraesophageal hernia ___. She is
now interested in pursuing surgical intervention. She reports
progressively worsening post prandial epigastric to left upper
quad abd pain since ___. She also has reflux and had several
weeks of vomiting after eating due to a "heavy feeling in her
stomach". She denies nausea, SOB, cough, heartburn, dysphagia.
There has been a 24# intentional wt loss in 2 months. She has
been managed by Dr ___ lymphoma has been managed by
Dr ___. The pt completed whole gastric radiation and rituxan
treatment. She presents now for surgical repair.

 
Past Medical History:
--GAVE (last endoscopy on ___, without active bleeding)
--Iron deficiency anemia
--Lower extremity edema (minimally response to 40 mg furosemide, 
Echo in ___ with EF>75%)
--Chronic neck pain extending to knees (began ___ ___ ago after 
mother's death, currently managed with ___ x3 and tramadol but 
not well controlled)
--Sleep apnea
--Pulmonary HTN (Echo in ___: Moderate to severe pulmonary 
hypertension. Right ventricular dilation and mild dysfunction)
--Depression following mother's death ___ ___ ago)

 
Social History:
___
Family History:
- Father deceased at ___, history of angina, obesity
- Mother deceased ___, stroke at ___ & ___, dementia
- Sister deceased at ___, glioblastoma
- Two maternal aunts with colon cancer diagnosed in ___
- Daughter with ulcerative colitis.

 
Pertinent Results:
___ (POD1)
 
9.9 > 8.7/ 29.9 < ___   21
----------------< 123
5.0   28    0.8

Calcium-8.6 Phos-5.4*# Mg-2.1

IMAGING:

CXR ___:
  As compared to the previous radiograph, there is status post 
hiatal 
hernia repair.  At the location of the hernia, at the level of 
the left lower  lung, there is an air-filled structure, might 
represent a post-surgical air  inclusion.  However, the 
structure might also present a small remnant hernia.  There 
currently is no evidence for apical pneumothorax.  For further  
evaluation, an upright frontal and lateral radiograph would be 
helpful. 

Esophogram ___: POD1
IMPRESSION: 
 No evidence of extraluminal contrast.  No obstruction although 
barium flowed slowly through a very narrow channel with some 
pooling and mild dilation of the distal esophagus. 

  

 
Brief Hospital Course:
Please refer to the HPI for patient's initial presentation.

Patient was admitted to the Thoracic Surgery Service on the day 
of her scheduled surgery ___. She was taken to the 
operation room and underwent a Laparoscopic reduction of hiatal 
hernia, closure of diaphragm with pledgets, Hill gastropexy.
Please refer to the operative note by Dr. ___ details of 
the procedure. THe operation was without complications and 
patient tolerated the procedure well. She was extubated 
immediately after the procedure and was transferred to the 
hospital in a stable condition. She was kept NPO overnight with 
IVF. Her pain was well controlled and she remained 
hemodynamically stable without any acute events. Patient refused 
her foley catheter removal on the night of her surgery. On POD1, 
patient underwent an esophogram which did not demonstrate any 
leaks and she was advanced to a full liquid diet without any 
difficulty. Patient had difficult pain control on POD1 and after 
a trial of a few medications, she acheived good control with 
tylenol, oxycodone and tramadol. Her foley was removed on POD1 
without event. On POD2, patient was doing well with good pain 
control, she was tolerating a full liquid diet without any GI 
problems, she was ambulating without difficulty though she had 
some difficulty getting in and out of bed. She stayed  in the 
hospital for additional day to receive additional teaching by 
physical therapy which assessed her as sufficiently independent 
for discharge to home with some help required getting in and out 
of bed. By POD3, patient was fully normalized for discharge to 
home with minimal pain, adequate bladder and bowel function and 
abmulating independently. She expressed comfort to continue her 
recovery at home and was discharged on POD3 to her home with ___ 
for home safety assessment and home aid. She is to follow up at 
Thoracic clinic as detailed in her discharge instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. methotrexate sodium 2.5 mg oral q week 
2. Furosemide 40 mg PO DAILY:PRN lower ext edema 
3. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
4. meloxicam 15 mg oral daily prn 
5. Lansoprazole Oral Disintegrating Tab 15 mg PO BID 
6. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
7. Vitamin B Complex 1 CAP PO BID 
8. Cyanocobalamin 50 mcg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
3. Cyanocobalamin 50 mcg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Furosemide 40 mg PO DAILY:PRN lower ext edema 
6. Lansoprazole Oral Disintegrating Tab 15 mg PO BID 
RX *lansoprazole [Prevacid SoluTab] 15 mg 1 tablet,disintegrat, 
delay rel(s) by mouth twice a day Disp #*50 Tablet Refills:*0
7. Vitamin B Complex 1 CAP PO BID 
8. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
9. Acetaminophen 650 mg PO Q4H:PRN pain 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet 
extended release(s) by mouth Q4-6hrs  prn Disp #*50 Tablet 
Refills:*0
10. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*0
11. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4-6hrs pain Disp #*50 
Tablet Refills:*0
12. meloxicam 15 mg ORAL DAILY PRN arthritic pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Giant paraesophageal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Difficult or painful swallowing
-Nausea, vomiting. Make sure you take your anti nausea 
medication
-Increased shortness of breath

Pain
-Take stool softners while taking narcotics
-No driving while taking narcotics

Activity
-Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
-No tub bathing, swimming or hot tubs until incision healed
-No lotions or creams to incision
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily

Diet:
Full liquid diet for ___ days. Increase to soft solids as 
tolerates

Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

NO CARBONATED DRINKS

 

 
Followup Instructions:
___